US06140100
A 100 mL 3-necked flask equipped with a magnetic stirrer was charged with 0.200 g of ethyl 4-(((1,2-dihydro-3-methyl-1-oxobenzo(f)quinazolin-9-yl)methyl)amino)-2-fluorobenzoate, 18 mL of 1 N NaOH, and 20 mL of EtOH. After stirring overnight at RT, the solution was concentrated to 20 mL in vacuo and acidified to pH 2.5 by addition of concentrated HCl. The resulting precipitate was collected by vacuum filtration, washed with 15 mL of water, and dried in vacuo to afford 0.15 g (77%) of 4-(((1,2-dihydro-3-methyl-1-oxobenzo(f)quinazolin-9-yl)methyl)amino)-2-fluorobenzoic acid as a white powder, m.p. >250° C.

reactant | ethyl 4-(((1,2-dihydro-3-methyl-1-oxobenzo(f)quinazolin-9-yl)methyl)amino)-2-fluorobenzoate | 0.200 g | CC1=NC=2C=CC3=C(C2C(N1)=O)C=C(C=C3)CNC3=CC(=C(C(=O)OCC)C=C3)F | C23H20FN3O3
reactant | NaOH | 1 N, 18 mL | [OH-].[Na+]
solvent | EtOH | 20 mL | CCO | C2H6O
product | 4-(((1,2-dihydro-3-methyl-1-oxobenzo(f)quinazolin-9-yl)methyl)amino)-2-fluorobenzoic acid | 0.15 g, 77% | CC1=NC=2C=CC3=C(C2C(N1)=O)C=C(C=C3)CNC3=CC(=C(C(=O)O)C=C3)F | C21H16FN3O3
